US04678792
2-(2-Methylbenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethoxy-3,4-dihydroisoquinoline and 2-methyl-benzyl chloride in dioxan. Melting point: 193°-195° C. (Decomp., from ethanol-ether).

reactant | 6,7-dimethoxy-3,4-dihydroisoquinoline | COC=1C=C2CCN=CC2=CC1OC | C11H13NO2
reactant | 2-methyl-benzyl chloride | CC1=C(CCl)C=CC=C1 | C8H9Cl
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(2-Methylbenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride | [Cl-].CC1=C(C[N+]2=CC3=CC(=C(C=C3CC2)OC)OC)C=CC=C1 | InChI=1S/C19H22NO2.ClH/c1-14-6-4-5-7-16(14)12-20-9-8-15-10-18(21-2)19(22-3)11-17(15)13-20;/h4-7,10-11,13H,8-9,12H2,1-3H3;1H/q+1;/p-1
